US07820675B2
N-{7-[(2-Pyrrolidin-1-ylethyl)amino]-1-benzofuran-5-yl}benzenesulfonamide hydrochloride
To a test tube containing benzenesulfonyl chloride (42 mg, 0.235 mmol) was added a solution of N7-(2-pyrrolidin-1-ylethyl)-1-benzofuran-5,7-diamine* (48 mg, 0.195 mmol) in dichloromethane (3 mL). After addition of triethylamine (55 μl, 0.391 mmol), the mixture was shaken for 1 h and then concentrated. The residue was purified by preparative HPLC. The resulting TFA-salt was treated with HCl/ether and evaporated to provide the title compound. Yield: 5%, HPLC purity=99%, m/z=386 (M+H)+, 1H NMR (270 MHz, methanol-d4) δ ppm 1.95-2.26 (m, 4H) 3.03-3.24 (m, 2H) 3.38-3.47 (m, 2H) 3.58-3.65 (m, 2H) 3.64-3.77 (m, 2H) 6.45-6.48 (m, 1H) 6.55-6.57 (m, 1H) 6.65 (d, J=2.23 Hz, 1H) 7.40-7.59 (m, 3H) 7.67 (d, J=2.23 Hz, 1H) 7.68-7.73 (m, 2H). *Prepared in two steps starting from 2-pyrrolidin-1-yl-ethylamine: i) Pd-catalysed amination of 7-iodo-5-nitro-benzofuran according to the procedure of Intermediate 31 to provide (5-nitro-benzofuran-7-yl)-(2-pyrrolidin-1-yl-ethyl)-amine and ii) reduction of the nitro group of (5-nitro-benzofuran-7-yl)-(2-pyrrolidin-1-yl-ethyl)-amine to provide N7-(2-pyrrolidin-1-ylethyl)-1-benzofuran-5,7-diamine according to the procedure of Example 48 (Step 1).

reactant | benzenesulfonyl chloride | 0.235 mmol, 42 mg | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | N7-(2-pyrrolidin-1-ylethyl)-1-benzofuran-5,7-diamine | N1(CCCC1)CCNC1=CC(=CC=2C=COC21)N | C14H19N3O
reactant | triethylamine | 0.391 mmol, 55 μl | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | N-{7-[(2-Pyrrolidin-1-ylethyl)amino]-1-benzofuran-5-yl}benzenesulfonamide hydrochloride | Yield: 5% | Cl.N1(CCCC1)CCNC1=CC(=CC=2C=COC21)NS(=O)(=O)C2=CC=CC=C2 | InChI=1S/C20H23N3O3S.ClH/c24-27(25,18-6-2-1-3-7-18)22-17-14-16-8-13-26-20(16)19(15-17)21-9-12-23-10-4-5-11-23;/h1-3,6-8,13-15,21-22H,4-5,9-12H2;1H
